US07777047B2
6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.74 g), 4N aqueous sodium hydroxide solution (1.2 ml), tetrahydrofuran (6 ml) and methanol (4 ml) was stirred at 60° C. for 2 hr. The reaction mixture was concentrated, and acidified with 10% aqueous citric acid solution, and the resulting crystals were collected by filtration, washed with water, and dried to give the title compound (0.69 g, quantitative) as colorless crystals. melting point 286-288° C.

reactant | ethyl 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.74 g | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C16H15ClN2O4S2
reactant | sodium hydroxide | 4N, 1.2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.69 g | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(=O)O | C14H11ClN2O4S2
